US07253196B2
2-[(4-chlorobenzyl)amino]-5-isopropyl-1,3-oxazol-4(5H)-one
Synthesis was performed from 2-amino-5-isopropyl-1,3-oxazol-4(5H)-one and 4-Chlorobenzylamine according to Method G+H.

reactant | 2-amino-5-isopropyl-1,3-oxazol-4(5H)-one | NC=1OC(C(N1)=O)C(C)C | C6H10N2O2
reactant | 4-Chlorobenzylamine | ClC1=CC=C(CN)C=C1 | C7H8ClN
product | 2-[(4-chlorobenzyl)amino]-5-isopropyl-1,3-oxazol-4(5H)-one | ClC1=CC=C(CNC=2OC(C(N2)=O)C(C)C)C=C1 | C13H15ClN2O2
